* C:\Users\mrfra\Downloads\Embedded labs\ele_lab_exercises\LAB5\LM741voltageFollower.asc
XU1 in out N001 N002 out LM741
V2 N001 0 15 Rser=0
V1 in 0 PULSE(-15 15 0 1u 1u 500u)
V3 0 N002 15
.tran 16m
.lib LM741.lib
.backanno
.end
